US08211401B2
To a solution of the above product, (5S,12S,16S)-tri-tert-butyl 5-(4-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)butyl)-1-(9H-fluoren-9-yl)-3,6,14-trioxo-2-oxa-4,7,13,15-tetraazaoctadecane-12,16,18-tricarboxylate in DMF (1.0 mL) was added piperidine (0.50 mL). The mixture was stirred at room temperature for 2 hrs. Solvent was evaporated under reduce pressure to afford a residue, which was purified by biotage eluting with 5% MeOH to 50% MeOH in DCM to afford (7S,14S,18S)-tri-tert-butyl 7-amino-1-(1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-2-((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)-8,16-dioxo-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate (40 mg, 25%) as a white solid. 1H NMR (400 MHz, CDCl3) 6.96 (s, 2 H), 6.83 (d, 2 H), 6.37 (brs, 1 H), 6.33 (brs, 1 H), 5.05 (s, 4 H), 4.87 (brs, 2 H), 4.27-4.24 (m, 2 H), 4.18 (s, 4 H), 4.10 (s, 4 H), 3.88 (d, J=15.2 Hz, 2 H), 3.62 (d, J=15.2 Hz, 2 H), 3.14-3.12 (m, 1 H), 2.30-1.24 (m, 83 H); MS (ESI), 674.1 (M/2+H)+.

reactant | (5S,12S,16S)-tri-tert-butyl 5-(4-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)butyl)-1-(9H-fluoren-9-yl)-3,6,14-trioxo-2-oxa-4,7,13,15-tetraazaoctadecane-12,16,18-tricarboxylate | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCC[C@H](NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CC=1N(C=CN1)CC(N(CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O)=O)CC(OC(C)(C)C)=O)=O | C81H121N11O20
reactant | piperidine | 0.50 mL | N1CCCCC1 | C5H11N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (7S,14S,18S)-tri-tert-butyl 7-amino-1-(1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-2-((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)-8,16-dioxo-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate | 40 mg, 25% | N[C@@H](CCCCN(CC=1N(C=CN1)CC(=O)N(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)CC=1N(C=CN1)CC(=O)N(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)C(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O | C66H111N11O18
